US04714766
If the process is carried out as in Example 1, but, instead of 6-chlorobenzoxazolin-2-one, the same amount of 5-chlorobenzoxazolin-2-one is used, then about 130 g, corresponding to 69% of theory, of 2,5-dichlorobenzoxazole, melting point 46°-48° C., are obtained.

reactant | 6-chlorobenzoxazolin-2-one | ClC1=CC2=C(NC(O2)=O)C=C1 | C7H4ClNO2
reactant | 5-chlorobenzoxazolin-2-one | ClC=1C=CC2=C(NC(O2)=O)C1 | C7H4ClNO2
product | 2,5-dichlorobenzoxazole | ClC=1OC2=C(N1)C=C(C=C2)Cl | C7H3Cl2NO
